US06982348B2
6) 5,6,7,8-tetrahydrobenzo[a]cycloocten-1-ylmethanol
To a solution of tert-butyl(5,6,7,8-tetrahydrobenzo[a]cycloocten-1-ylmethoxy)dimethylsilane (10.94 g, 36.16 mmol) in tetrahydrofuran (100 ml) was added a solution (43.4 ml, 43.4 mmol) of 1.0 M tetrabutylammonium fluoride in tetrahydrofuran at room temperature and the mixture was stirred at room temperature for 15 min. The reaction solution was poured into water and extracted twice with ethyl acetate. The collected organic layer was dried over anhydrous magnesium sulfate and the solvent was evaporated under reduced pressure. The obtained crude product was purified by silica gel column chromatography (hexane/ethyl acetate=6/1−3/1) to give the objective substance.

reactant | tert-butyl(5,6,7,8-tetrahydrobenzo[a]cycloocten-1-ylmethoxy)dimethylsilane | 36.16 mmol, 10.94 g | C(C)(C)(C)[Si](C)(C)OCC1=CC=CC2=C1C=CCCCC2 | C19H30OSi
reactant | tetrabutylammonium fluoride | 43.4 mmol, 1.0 M, 43.4 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 5,6,7,8-tetrahydrobenzo[a]cycloocten-1-ylmethanol | C1(=CC=CC2=C1C=CCCCC2)CO | C13H16O
